US07396958B2
(2-amino-5-chlorophenyl)(2,5-dichlorophenyl)methanol
To 6.38 g of (2-amino-5-chlorophenyl)(2,5-dichlorophenyl)methanone dissolved in 50 ml of ethanol are added 2.4 g of sodium borohydride, and the mixture is left for 18 hours at room temperature. The resulting mixture is concentrated and the residue is taken up in ethyl acetate and washed with water. The organic phase is dried over anhydrous sodium sulfate and concentrated to give 2.016 g of the expected product.

reactant | (2-amino-5-chlorophenyl)(2,5-dichlorophenyl)methanone | 6.38 g | NC1=C(C=C(C=C1)Cl)C(=O)C1=C(C=CC(=C1)Cl)Cl | C13H8Cl3NO
reactant | sodium borohydride | 2.4 g | [BH4-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | (2-amino-5-chlorophenyl)(2,5-dichlorophenyl)methanol | 2.016 g | NC1=C(C=C(C=C1)Cl)C(O)C1=C(C=CC(=C1)Cl)Cl | C13H10Cl3NO
